US08168794B2
A solution of cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-(hydroxymethyl)piperidine-1-carboxylate (1 eq.), perfluorobutanesulfonylfluoride (2 eq.), triethylamine-HF (4 eq.) and triethylamine (6 eq.) in tetrahydrofuran at a concentration of 0.16 M was stirred for 36 hours. Upon dilution with ethyl acetate (50×) the solution was washed with 1N HCl, NaHCO3(sat.) and brine, was dried over MgSO4, filtered, concentrated and purified by column chromatography (25-40% ethyl acetate/hexanes) to yield cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-(fluoromethyl)piperidine-1-carboxylate (45% yield). LCMS (m/z): 267.1 (MH+); LC Rt=4.23 min.

reactant | cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-(hydroxymethyl)piperidine-1-carboxylate | 1 eq. | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)CO)C(=O)OCC1=CC=CC=C1 | C19H28N2O5
reactant | perfluorobutanesulfonylfluoride | 2 eq. | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 6 eq. | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-(fluoromethyl)piperidine-1-carboxylate | 45% yield | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)CF)C(=O)OCC1=CC=CC=C1 | C19H27FN2O4
